US04431822
2-Bromo-4-fluorophenol (28 g) was added to a solution of sodium hydroxide (7 g) in water (100 ml), and methyl chloroformate was dropwise added thereto at a temperature of below 10° C. Precipitated crystals were collected by filtration and washed with water to give methyl (2-bromo-4-fluorophenyl)formate (41 g). M.P., 80.7° C.

reactant | 2-Bromo-4-fluorophenol | 28 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | sodium hydroxide | 7 g | [OH-].[Na+]
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | water | 100 ml | O | H2O
product | methyl (2-bromo-4-fluorophenyl)formate | 41 g | BrC1=C(C=CC(=C1)F)C(=O)OC | C8H6BrFO2
